US04933345
6-Benzyloxy-3-(5-ethoxy-3-isoxazolyl)-4-methoxymethyl-β-carboline
1.1 g (3.0 mmol) of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde oxime is dissolved in 40 ml of dry DMF and combined with 0.56 g (3.1 mmol) of N-bromosuccinimide (dissolved in 5 ml of DMF). The reaction mixture is stirred for 15 minutes at room temperature and then combined with 1.5 eq. of ethoxyacetylene and 2 ml of triethylamine. The reaction mixture is agitated overnight at room temperature, then poured on ice water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered, the solvent drawn off, and the residue purified by column chromatography on silica gel with ethyl acetate. Melting point: 139°-140° C.

reactant | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde oxime | 3.0 mmol, 1.1 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C=NO)COC | C21H19N3O3
reactant | N-bromosuccinimide | 3.1 mmol, 5 ml, 0.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethoxyacetylene | 1.5 eq. | C(C)OC#C | C4H6O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-3-(5-ethoxy-3-isoxazolyl)-4-methoxymethyl-β-carboline | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C1=NOC(=C1)OCC)COC | C25H23N3O4
